US07259177B2
Analogously to the building block synthesis of 4-iodomethyl-5-phenyl-2-p-tolyloxazole, diacetylmonoxime and 5-methylfuran-2-carbaldehyde gave 4-iodomethyl-5-methyl-2-(5-methylfuran-2-yl)oxazole.

reactant | 4-iodomethyl-5-phenyl-2-p-tolyloxazole | ICC=1N=C(OC1C1=CC=CC=C1)C1=CC=C(C=C1)C | C17H14INO
reactant | diacetylmonoxime | C/C(=N\O)/C(=O)C | C4H7NO2
reactant | 5-methylfuran-2-carbaldehyde | CC1=CC=C(O1)C=O | C6H6O2
product | 4-iodomethyl-5-methyl-2-(5-methylfuran-2-yl)oxazole | ICC=1N=C(OC1C)C=1OC(=CC1)C | C10H10INO2
